US05952355
A mixture of N,N-dimethylformamide (6 ml) and phosphorus oxychloride (1.78 g) was stirred at room temperature for 30 minutes. 4-Methylindole (1.0 g) was added to the reaction solution, followed by stirring at room temperature for one hour. A 5N aqueous solution of sodium hydroxide (15 ml) was added thereto, followed by stirring at 100° C. for further 30 minutes. The reaction solution was cooled, and the precipitated crystals were collected by filtration to give 4-methylindole-3-carboxaldehyde (Compound III-1, 1.14 g).

reactant | phosphorus oxychloride | 1.78 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-Methylindole | 1.0 g | CC1=C2C=CNC2=CC=C1 | C9H9N
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-methylindole-3-carboxaldehyde | 1.14 g | CC1=C2C(=CNC2=CC=C1)C=O | C10H9NO
